US05360795
2-Chloro-5-nitrobenzimidazole (19)
To 210 mL of fuming HNO3, 2-chlorobenzimidazole (13.42 g, 87.95 mmole) was added portionwise over a period of 10 min with stirring and ice-H2O cooling. After the addition, the cooling bath was removed and stirring was continued at room temperature overnight. This reaction mixture was cooled to ~0° C., poured into 300 mL of ice, and neutralized carefully with conc. NH4OH to ~pH 8. The resulting suspension was filtered. The yellowish solid product was washed with portions of H2O and air-dried. The filtrate and washings were combined and extracted with EtOAc (200 mL×2). The EtOAc solution was washed with sat. NaCl solution (200 mL×2), dried (Na2SO4), and evaporated to give 1.3 g of a yellowish solid. The solid was combined with the major part of the product and was recrystallized from MeOH to give 16.34 g (5 crops, 94%) of 19 as yellowish crystals. mp 235°-237° C. MS (El) m/e 196.9984 (100% M+ =196.9992). 1H NMR (DMSO-d6) d 14.06 (br. s, 1,1-NH), 8.41 (s, 1,4-H), 8.14 (dd, 1,6-H, J6-4 =2.0 Hz, J6-7 =9.0 Hz), 7.71 (d, 1,7-H).

reactant | 2-chlorobenzimidazole | 87.95 mmole, 13.42 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | HNO3 | 210 mL | [N+](=O)(O)[O-] | HNO3
product | 2-Chloro-5-nitrobenzimidazole | 1.3 g | ClC=1NC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H4ClN3O2
